delta_loaded_network - fault test
Vin A 0 DC 12
Ca A B 8.18e-06
Rb B C 30.227936
Rc C A 29.548179
Rload B 0 29.760104
.op
.control
run
print v(A) v(B) v(C)
print @rb[i] @rc[i] @rload[i]
.endc
.end
